*The following is the instance card:
xqexample 1 2 vdivide
*The following are the subcircuit definition cards:
.subckt vdivide 1 2
C1p 1 2 6.2pF
L1s 1 3 26mH
C2s 3 4 19.6fF
R1s 4 2 972
.ends