*The following is the instance card:
xqexample 1 2 vdivide
*The following are the subcircuit definition cards:
.subckt vdivide 1 2
R1p 1 2 100Meg
C1p 1 2 2.5pF
L1s 1 3 2.5H
C2s 3 4 0.01pF
R1s 4 2 640
.ends