.subckt transformer1 in1 in2 out1 out2 Lin=100u Lout=100u Rin=1 Rout=1
* inductances
Li in1 intin {Lin}
Lo out1 intou {Lout}
* coupling factors
K1 Li Lo 1
* series resistances
Ri intin in2 {Rin}
Ro intou out2 {Ro}
.ends