.subckt SPDT 5 1 10 2 9
S1 5 1 9 2 MYSW1
S2 5 10 2 9 MYSW2
.model MYSW1 SW(Ron=.01 Roff=1000Meg Vh=0 Vt=-.5)
.model MYSW2 SW(Ron=.01 Roff=1000Meg Vh=0 Vt=.5)
.ends
