*SRC=1N4735A;DI_1N4735A;Diodes;Zener <=10V; 6.20V  1.00W   Diodes Inc.
.SUBCKT DI_1N4735A  1 2
*       Terminals   A K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 5.33
.MODEL DF D ( IS=66.5p RS=0.620 N=1.10
+ CJO=141p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=13.3f RS=0.218 N=1.16 )
.ENDS